US07091214B2
1-(N-BOC-aminomethyl)-4-(aminomethyl)benzene (5.0 g, 21 mmol) in dichloromethane (50 mL) was added dropwise to a mixture of 7-bromo-4-chloro-3-nitroquinoline (5.81 g, 20 mmol) and triethylamine (5.63 mL) in dichloromethane (60 mL). The reaction was stirred for 16 hours and then washed sequentially with water and saturated aqueous sodium chloride. The organic fraction was dried over sodium sulfate, filtered and concentrated to provide a yellow crystalline solid. Recrystallization from 2-propanol yielded 9.1 g of tert-butyl{4-[(7-bromo-3-nitroquinolin-4-ylamino)methyl]benzyl}carbamate as a yellow powder.

reactant | 1-(N-BOC-aminomethyl)-4-(aminomethyl)benzene | 21 mmol, 5.0 g | C(=O)(OC(C)(C)C)NCC1=CC=C(C=C1)CN | C13H20N2O2
reactant | 7-bromo-4-chloro-3-nitroquinoline | 20 mmol, 5.81 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | triethylamine | 5.63 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-butyl{4-[(7-bromo-3-nitroquinolin-4-ylamino)methyl]benzyl}carbamate | 9.1 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC1=C(C=NC2=CC(=CC=C12)Br)[N+](=O)[O-])=O | C22H23BrN4O4
